US05441949
To a solution of 6-allyloxycarbonyl-8-nitroquinoline (4 g; 15.5 mM) in methanol (80 ml) was added SnCl2. (17.8 g-77.5 mM). The mixture was heated at 40° C. for 1 hour. After evaporation of the solvent, the residue was partitioned between an aqueous solution of NaHCO3 (10%) and ethyl acetate. The organic phase was concentrated and purified by subjecting to flash chromatography, eluting with ethylacetate/petroleum ether (30/70) to give 8-amino-6-allyloxycarbonylquinoline (3.4 g; 96%).

reactant | 6-allyloxycarbonyl-8-nitroquinoline | 15.5 mM, 4 g | C(C=C)OC(=O)C=1C=C2C=CC=NC2=C(C1)[N+](=O)[O-] | C13H10N2O4
reactant | SnCl2 | Cl[Sn]Cl
solvent | methanol | 80 ml | CO | CH4O
product | 8-amino-6-allyloxycarbonylquinoline | 3.4 g, 96% | NC=1C=C(C=C2C=CC=NC12)C(=O)OCC=C | C13H12N2O2
